US06509328B1
{4′-Fluoro-3-[3-(2-imidazol-1-yl-pyridin-4-yl)-3-oxo-propionylamino]-biphenyl-4-yl}-carbamic Acid tert.-Butyl Ester
Prepared from (3-amino-4′-fluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example G39) and 6-(2-imidazol-1-yl-pyridin-4-yl)-2,2-dimethyl-[1,3]dioxin-4-one (Example J14) according to the general procedure K. Obtained as a brown solid (361 mg).

reactant | (3-amino-4′-fluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CC=C(C=C1)F)N)=O | C17H19FN2O2
reactant | 6-(2-imidazol-1-yl-pyridin-4-yl)-2,2-dimethyl-[1,3]dioxin-4-one | N1(C=NC=C1)C1=NC=CC(=C1)C1=CC(OC(O1)(C)C)=O | C14H13N3O3
product | {4′-Fluoro-3-[3-(2-imidazol-1-yl-pyridin-4-yl)-3-oxo-propionylamino]-biphenyl-4-yl}-carbamic Acid tert.-Butyl Ester | 361 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CC=C(C=C1)F)NC(CC(=O)C1=CC(=NC=C1)N1C=NC=C1)=O)=O | C28H26FN5O4
